US07642361B2
4-Cyano-5-ethyl-3-(4-trifluoromethanesulfonyloxy-phenyl)-thiophene-2-carboxylic acid ethyl ester
Add 4-cyano-5-ethyl-3-(4-hydroxy-phenyl)-thiophene-2-carboxylic acid ethyl ester (30.0 g, 0.0996 mol) and dichloromethane (550 mL) to a 1000 mL, 3-neck round-bottom flask equipped with magnetic stir bar, internal temperature probe and nitrogen inlet. Add pyridine (12 mL, 0.15 mol) to the dark brown solution and cool the resulting light brown solution to −4° C. Attach a pressure-equalizing addition funnel containing trifluoromethanesulfonic anhydride (20 mL, 33.7 g, 0.119 mol) and add the funnel contents to the reaction mixture over 6 min. After 60 min, add pyridine (5 mL) and trifluoromethanesulfonic anhydride (10.0 mL) if the reaction is not complete (by HPLC). Add absolute ethanol (250 mL) to the reaction flask. After 135 minutes, pour the reaction mixture into water (1000 mL) and extract with dichloromethane (300 mL). Wash the dichloromethane extract with water (2×200 mL) and dry (MgSO4). Filter the MgSO4 and concentrate the filtrate under reduced pressure to afford a light brown powder (40.5 g). Triturate the powder with 5:95 ethyl acetate/hexanes (500 mL) at room temperature, filter under vacuum and air-dry to obtain the title compound (37.9 g, 87.9%) as a tan powder: 1H NMR (CDCl3, 300 MHz): δ 7.51 (d, 2H, J=9.3); 7.37 (d, 2H, J=9.0); 4.19 (q, 2H, J=6.9); 3.10 (q, 2H, J=7.5); 1.44 (t, 3H, J=7.5); 1.17 (t, 3H, J=7.2).

reactant | 4-cyano-5-ethyl-3-(4-hydroxy-phenyl)-thiophene-2-carboxylic acid ethyl ester | 0.0996 mol, 30.0 g | C(C)OC(=O)C=1SC(=C(C1C1=CC=C(C=C1)O)C#N)CC | C16H15NO3S
reactant | dichloromethane | 550 mL | ClCCl | CH2Cl2
reactant | pyridine | 0.15 mol, 12 mL | N1=CC=CC=C1 | C5H5N
reactant | trifluoromethanesulfonic anhydride | 0.119 mol, 20 mL, 33.7 g | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
reactant | pyridine | 5 mL | N1=CC=CC=C1 | C5H5N
reactant | trifluoromethanesulfonic anhydride | 10.0 mL | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
solvent | water | 1000 mL | O | H2O
solvent | ethanol | 250 mL | C(C)O | C2H6O
product | 4-Cyano-5-ethyl-3-(4-trifluoromethanesulfonyloxy-phenyl)-thiophene-2-carboxylic acid ethyl ester | 40.5 g | C(C)OC(=O)C=1SC(=C(C1C1=CC=C(C=C1)OS(=O)(=O)C(F)(F)F)C#N)CC | C17H14F3NO5S2
